US06492394B1
To a solution of 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid tert-butyl ester (0.15 g, 0.44 mmol) and potassium carbonate (0.32 g, 2.32 mmol) in dry dimethylformamide (15 mL) was added 3-nitro-4-methylbenzyl chloride (81.1 mg. 0.44 mmol). The reaction mixture was stirred overnight and then concentrated on the rotoevaporator. The residue was dissolved in a 1:1 ethyl acetate and brine (50 mL). The organic phase was isolated, dried over magnesium sulfate, and concentrated to give 2(R)-[(3-nitro-4-methylbenzyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid tert-butyl ester (0.196 g) as a yellow viscous oil which was converted to 2(R)-[(3-nitro-4-methylbenzyl)-(4-methoxy-benzenesulfonyl)amino]-3-methylbutyric acid by following the procedure described in Example 10, Step 8 below. 2(R)-[(3-nitro-4-methylbenzyl)-(4-methoxybenzenesulfonyl)-amino]-3-methylbutyric acid is then converted to N-hydroxy-2(R)-[(3-nitro-4-methylbenzyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyramide by following Example 1, Steps 6 and 7 above.

reactant | 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid tert-butyl ester | 0.44 mmol, 0.15 g | C(C)(C)(C)OC([C@@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C16H25NO5S
reactant | potassium carbonate | 2.32 mmol, 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-nitro-4-methylbenzyl chloride | 0.44 mmol, 81.1 mg | [N+](=O)([O-])C=1C=C(CCl)C=CC1C | C8H8ClNO2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2(R)-[(3-nitro-4-methylbenzyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid tert-butyl ester | 0.196 g | C(C)(C)(C)OC([C@@H](C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C24H32N2O7S
